US05852017
6-(2,5-Dimethyl-1-pyrrolyl)-7-trifluoromethyl-2,3(1H,4H)-quinoxalinedione
12.2 mmol of 6-amino-7-trifluoromethyl-2,3(1H,4H)-quinoxalinedione were reacted with 12.2 mmol of 2,5-dimethyl-2,5-dimethoxytetrahydrofuran by the method of Example 5d.

reactant | 6-amino-7-trifluoromethyl-2,3(1H,4H)-quinoxalinedione | 12.2 mmol | NC=1C=C2NC(C(NC2=CC1C(F)(F)F)=O)=O | C9H6F3N3O2
reactant | 2,5-dimethyl-2,5-dimethoxytetrahydrofuran | 12.2 mmol | CC1(OC(CC1)(OC)C)OC | C8H16O3
product | 6-(2,5-Dimethyl-1-pyrrolyl)-7-trifluoromethyl-2,3(1H,4H)-quinoxalinedione | CC=1N(C(=CC1)C)C=1C=C2NC(C(NC2=CC1C(F)(F)F)=O)=O | C15H12F3N3O2
